* c:\fossee\esim\library\subcircuitlibrary\hcf4066\hcf4066.cir

.include INVCMOS.sub
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m3 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
x1 net-_u1-pad5_ net-_m1-pad2_ INVCMOS
x2 net-_m1-pad2_ net-_m3-pad2_ INVCMOS
m4 net-_c1-pad1_ net-_m1-pad2_ net-_m1-pad1_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m5 net-_c1-pad1_ net-_m3-pad2_ net-_m1-pad1_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
c1  net-_c1-pad1_ gnd 100p
* u1  net-_m10-pad3_ net-_c2-pad1_ net-_c1-pad1_ net-_m1-pad1_ net-_u1-pad5_ net-_u1-pad6_ gnd net-_m11-pad1_ net-_c3-pad1_ net-_c4-pad1_ net-_m12-pad1_ net-_u1-pad12_ net-_u1-pad13_ gnd port
m12 net-_m12-pad1_ net-_m12-pad2_ net-_m12-pad3_ net-_m12-pad1_ CMOSP W=100u L=100u M=1
m16 net-_m12-pad1_ net-_m16-pad2_ net-_m12-pad3_ net-_m12-pad3_ CMOSN W=100u L=100u M=1
m14 net-_m12-pad3_ net-_m12-pad2_ gnd gnd CMOSN W=100u L=100u M=1
x6 net-_u1-pad12_ net-_m12-pad2_ INVCMOS
x8 net-_m12-pad2_ net-_m16-pad2_ INVCMOS
m18 net-_c4-pad1_ net-_m12-pad2_ net-_m12-pad1_ net-_m12-pad1_ CMOSP W=100u L=100u M=1
m20 net-_c4-pad1_ net-_m16-pad2_ net-_m12-pad1_ net-_m12-pad3_ CMOSN W=100u L=100u M=1
c4  net-_c4-pad1_ gnd 100p
m6 net-_m10-pad3_ net-_m6-pad2_ net-_m10-pad4_ net-_m10-pad3_ CMOSP W=100u L=100u M=1
m8 net-_m10-pad3_ net-_m10-pad2_ net-_m10-pad4_ net-_m10-pad4_ CMOSN W=100u L=100u M=1
m7 net-_m10-pad4_ net-_m6-pad2_ gnd gnd CMOSN W=100u L=100u M=1
x3 net-_u1-pad13_ net-_m6-pad2_ INVCMOS
x4 net-_m6-pad2_ net-_m10-pad2_ INVCMOS
m9 net-_c2-pad1_ net-_m6-pad2_ net-_m10-pad3_ net-_m10-pad3_ CMOSP W=100u L=100u M=1
m10 net-_c2-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad4_ CMOSN W=100u L=100u M=1
c2  net-_c2-pad1_ gnd 100p
m11 net-_m11-pad1_ net-_m11-pad2_ net-_m11-pad3_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
m15 net-_m11-pad1_ net-_m15-pad2_ net-_m11-pad3_ net-_m11-pad3_ CMOSN W=100u L=100u M=1
m13 net-_m11-pad3_ net-_m11-pad2_ gnd gnd CMOSN W=100u L=100u M=1
x5 net-_u1-pad6_ net-_m11-pad2_ INVCMOS
x7 net-_m11-pad2_ net-_m15-pad2_ INVCMOS
m17 net-_c3-pad1_ net-_m11-pad2_ net-_m11-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
m19 net-_c3-pad1_ net-_m15-pad2_ net-_m11-pad1_ net-_m11-pad3_ CMOSN W=100u L=100u M=1
c3  net-_c3-pad1_ gnd 100p
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
